US08022063B2
{4-Bromo-2-[2-(4-chlorophenyl)oxazol-4-yl]phenoxy}acetic acid.
Title compound was prepared from [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester and 4-chlorobenzamide according to GP5 and GP3: LC/MS (an10p8) Rt 2.90 min, m/z 407.7 [M+H]+; 1H NMR (CDCl3): δ 4.89 (s, 2H), 7.09 (d, 1H), 7.48 (d, 1H), 7.64 (d, 2H), 8.08 (d, 2H), 8.20 (s, 1H), 8.89 (s, 1H), 13.2 (br s, 1H).

reactant | [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)C(CBr)=O)=O | C12H12Br2O4
reactant | 4-chlorobenzamide | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
product | {4-Bromo-2-[2-(4-chlorophenyl)oxazol-4-yl]phenoxy}acetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)C=1N=C(OC1)C1=CC=C(C=C1)Cl | C17H11BrClNO4
